US05744453
Preparation of 2,3,4,6-Tetra-O-benzyl-α-D-glucopyranose Methyl-α-D-glucopyranose (100 g, 0.516 mol) is suspended in benzyl chloride (400 mL, 3.5 mol) with KOH pellets (336 g, 6 mol), and the mixture is stirred using a mechanical stirrer at 120°-130° C. for 3 h. The reaction mixture is cooled and water (800 mL) is added to dissolve the crystalline mass, which is extracted with ether (2×200 mL). The combined organic layer is washed with water (2×500 mL) and dried (Na2SO4). The solvents are removed by vacuum distillationto give the crude methyl 2,3,4,6-tetra-O-benzyl-α-D-glucopyranoside for the next reaction.

reactant | 2,3,4,6-Tetra-O-benzyl-α-D-glucopyranose Methyl-α-D-glucopyranose | 0.516 mol, 100 g | C[C@@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO.C(C1=CC=CC=C1)O[C@H]1[C@@H](O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1
reactant | benzyl chloride | 3.5 mol, 400 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | KOH | [OH-].[K+]
solvent | water | 800 mL | O | H2O
product | methyl 2,3,4,6-tetra-O-benzyl-α-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C35H38O6
